US05880147
N-[2-t-Butyl-5-(2-methylpropanoyl)aminocarbonylphenyl)-3-(2,4-dimethoxyphenyl]octanamide (Compound No. 387)
Following a similar procedure to that described in Example 139, but using N-(2-t-butyl-5-carboxyphenyl)-3-(2,4-dimethoxyphenyl)octanamide (prepared as described in Preparation 7) and 2-methylpropanamide, the title compound was obtained as crystals, melting at 157°-159° C. (from acetonitrile).

reactant | N-(2-t-butyl-5-carboxyphenyl)-3-(2,4-dimethoxyphenyl)octanamide | C(C)(C)(C)C1=C(C=C(C=C1)C(=O)O)NC(CC(CCCCC)C1=C(C=C(C=C1)OC)OC)=O | C27H37NO5
reactant | 2-methylpropanamide | CC(C(=O)N)C | C4H9NO
solvent | acetonitrile | C(C)#N | C2H3N
product | N-[2-t-Butyl-5-(2-methylpropanoyl)aminocarbonylphenyl)-3-(2,4-dimethoxyphenyl]octanamide | C(C)(C)(C)C1=C(C=C(C=C1)C(=O)NC(C(C)C)=O)NC(CC(CCCCC)C1=C(C=C(C=C1)OC)OC)=O | C31H44N2O5
